US05576327
A solution of 2.5 g of 4-cyanobenzenesulfonyl chloride in 20 ml of dichloromethane was added dropwise with ice-cooling to a solution of 2.37 g of 7-(n-butyl)-9,9-dimethyl-3,7-diazabicyclo[3.3.1]nonane in 30 ml of dichloromethane. The ice-cooling was then removed, and the reaction mixture was stirred at room temperature for one hour. The hydrochloride of the title compound was thereupon deposited as a white precipitate. The crystals were filtered out with suction and dried at 60° C. in a vacuum drying oven. 2.5 g of 7-(n-butyl)-3-[(4-cyanophenyl)sulfonyl]-9,9-dimethyl-3,7-diazabicyclo[3.3.1]nonane hydrochloride having a melting point of 98° to 99° C. were obtained.

reactant | 4-cyanobenzenesulfonyl chloride | 2.5 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | 7-(n-butyl)-9,9-dimethyl-3,7-diazabicyclo[3.3.1]nonane | 2.37 g | C(CCC)N1CC2CNCC(C1)C2(C)C | C13H26N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 7-(n-butyl)-3-[(4-cyanophenyl)sulfonyl]-9,9-dimethyl-3,7-diazabicyclo[3.3.1]nonane hydrochloride | 2.5 g | Cl.C(CCC)N1CC2CN(CC(C1)C2(C)C)S(=O)(=O)C2=CC=C(C=C2)C#N | InChI=1S/C20H29N3O2S.ClH/c1-4-5-10-22-12-17-14-23(15-18(13-22)20(17,2)3)26(24,25)19-8-6-16(11-21)7-9-19;/h6-9,17-18H,4-5,10,12-15H2,1-3H3;1H
